US08877815B2
Synthesis of (S)-2-(3′-Chlorobiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethanamine
To a solution of (S)-tert-butyl 2-(3′-chlorobiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethylcarbamate (250 mg, 0.625 mmol) in DCM (5 ml) at room temperature was added TFA (2 ml, 26.0 mmol), and the mixture was stirred at room temperature for 0.5 hour. The mixture was concentrated under reduced pressure and obtained the title compound. LCMS (condition A): 300.1 (M+1); retention time=1.20 min.

reactant | (S)-tert-butyl 2-(3′-chlorobiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethylcarbamate | 0.625 mmol, 250 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C1=NN=NN1)NC(OC(C)(C)C)=O | C20H22ClN5O2
reactant | TFA | 26.0 mmol, 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-(3′-Chlorobiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethanamine | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](N)C1=NN=NN1 | C15H14ClN5
